US06962935B2
Part A. Preparation of 2-chloro-4-(3-cyanophenyl)-5-carboxythiazole.
To a solution of of 2-chloro-4-(3-cyanophenyl)-5-carboethoxythiazole (0.44 g, 1.45 mmol) in 25 mL of methanol and 25 mL of water was added potassium hydroxide (0.09 g, 1.6 mmol). The resulting solution was stirred at reflux for 2 h and then was cooled to room temperature. The methanol was removed in vacuo and the aqueous layer was diluted with water and washed with hexanes. The hexane layer was discarded. The aqueous layer was acidified and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried (MgSO4) and concentrated to yield 0.33 g (97%) of the title compound which was used without further purification. MS (ESI)−262.9 (M−H)−.

reactant | 2-chloro-4-(3-cyanophenyl)-5-carboethoxythiazole | 1.45 mmol, 0.44 g | ClC=1SC(=C(N1)C1=CC(=CC=C1)C#N)C(=O)OCC | C13H9ClN2O2S
reactant | potassium hydroxide | 1.6 mmol, 0.09 g | [OH-].[K+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 2-chloro-4-(3-cyanophenyl)-5-carboxythiazole | 0.33 g, 97% | ClC=1SC(=C(N1)C1=CC(=CC=C1)C#N)C(=O)O | C11H5ClN2O2S
